US07872028B2
To a stirred solution of tert-butyl (S)-2-cyclohexyl-1-((R)-oxiran-2-yl)ethylcarbamate (0.20 g, 0.74 mmol) in MeOH (15 mL) at rt, ammonium hydroxide (5 mL) was added. The resulting clear solution was stirred at rt overnight, and completion of reaction was confirmed by LC-MS. Solvent was removed under vacuum to leave tert-butyl (2S,3S)-4-amino-1-cyclohexyl-3-hydroxybutan-2-ylcarbamate (0.21 g, quant.), which was used for the next step without purification; M/S m/z 287 (M+H+).

reactant | tert-butyl (S)-2-cyclohexyl-1-((R)-oxiran-2-yl)ethylcarbamate | 0.74 mmol, 0.20 g | C1(CCCCC1)C[C@@H]([C@H]1OC1)NC(OC(C)(C)C)=O | C15H27NO3
reactant | ammonium hydroxide | 5 mL | [OH-].[NH4+]
solvent | MeOH | 15 mL | CO | CH4O
product | tert-butyl (2S,3S)-4-amino-1-cyclohexyl-3-hydroxybutan-2-ylcarbamate | 0.21 g | NC[C@@H]([C@H](CC1CCCCC1)NC(OC(C)(C)C)=O)O | C15H30N2O3
